US05217952
(E)-3-[2-((Z)-1-Pentenyl)phenyl]propenoic acid (1.08 g) was dissolved in a mixture of dichloromethane (10 ml), oxalyl chloride (0.5 ml) and N,N-dimethylformamide (0.05 ml). After stirring for 1 hour under nitrogen atmosphere at room temperature, the solvent was evaporated. The residue was dissolved in n-hexane and the mixture was filtered. Filtrate was evaporated to give (E)-3-[2-((Z)-1-pentenyl)phenyl]propenoyl chloride (1.15 g).

reactant | (E)-3-[2-((Z)-1-Pentenyl)phenyl]propenoic acid | 1.08 g | C(=C/CCC)/C1=C(C=CC=C1)/C=C/C(=O)O | C14H16O2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | oxalyl chloride | 0.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | N,N-dimethylformamide | 0.05 ml | CN(C=O)C | C3H7NO
product | (E)-3-[2-((Z)-1-pentenyl)phenyl]propenoyl chloride | 1.15 g | C(=C/CCC)/C1=C(C=CC=C1)/C=C/C(=O)Cl | C14H15ClO
